Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Latex / Lactose / Sulfa (Sulfonamide Antibiotics) 
/ clindamycin
 
Attending: ___.
 
Chief Complaint:
Pneumothorax
 
Major Surgical or Invasive Procedure:
-Bronchoscopy and biopsy of lung nodules with interventional 
pulmonology (___)
-Chest tube placement and removal with interventional 
pulmonology 

 
History of Present Illness:
___ former smoker with PMHx emphysema, Afib on AC, multiple
pulmonary nodules, who had bronchoscopy ___ for biopsy of LLL
nodule done by IP c/b PTX. 

Patient states she was having a chronic cough that started ___
years ago, found to have incidental finding of lung nodules 
found
on CT. She had since undergone regular monitoring. Recently 
found
to have nodule increased in size and change in composition on 
CT.
Came in for bx of nodule on ___ to be performed by IP. Notably
stopped her pradaxa 2 days prior. Unfortunately sustained a 
small
apical PTX during the procedure. Had chest tube placed by IP.
Patient subsequently transferred from ___ over to ___
for continued monitoring.

On arrival to the floor, patient states she still has pain in L
chest wall though is somewhat improving. Says she is breathing
comfortably, no SOB. Has no other complaints. 

 
Past Medical History:
Emphysema
AFib on AC (Pradaxa)
Osteoarthritis
Hyperlipidemia
Hypothyroidism
Achilles tendonitis
Rectal prolapse
Osteopenia
 
Social History:
___
Family History:
Family History:
Mother: pancreatic cancer
sibling: hemorrhagic stroke
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: 97.6 | 161/77 | 77 | 18, 95% 2Lnc 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. Dry
MM. 
CARDIAC: RRR. Audible S1 and S2. No murmurs/rubs/gallops.
CHEST: chest tube in place on L chest wall, c/d/i. L chest ttp. 
LUNGS: CTAB. Some decreased aeration on L, though inspiration
limited by pain. No wheezes, rhonchi or rales. No increased work
of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. 
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. 

DISCHARGE PHYSICAL EXAM:
========================
VITALS: ___ 0735 Temp: 97.5 PO BP: 136/80 R Lying HR: 87 
RR:
18 O2 sat: 95% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No MRG.
LUNGS: Diffuse wheezing throughout. No increased work of
breathing. Chest tube removed. Insertion site in left chest cdi.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. 

 
Pertinent Results:
PERTINENT LABS:
===============
___ 05:00AM BLOOD WBC-9.5 RBC-4.40 Hgb-13.6 Hct-41.4 MCV-94 
MCH-30.9 MCHC-32.9 RDW-12.5 RDWSD-43.3 Plt ___
___ 05:00AM BLOOD ___ PTT-29.8 ___
___ 05:00AM BLOOD Glucose-98 UreaN-18 Creat-0.9 Na-143 
K-5.0 Cl-101 HCO3-29 AnGap-13
___ 05:00AM BLOOD Calcium-9.1 Phos-4.4 Mg-1.9

Post procedure CXR: moderate left apical pneumothorax

CXR prior to chest tube removal: No evidence of pneumothorax. 

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
======================
This is a ___ former smoker with PMHx emphysema, Afib on AC, 
multiple pulmonary nodules, who had bronchoscopy ___ for 
biopsy of LLL nodule done by IP c/b pneumothorax. She 
subsequently had chest tube placed and was admitted for further 
monitoring. She was successfully weaned off O2 overnight. Pain 
at chest tube insertion site improved over time and did not 
require oxycodone overnight. She remained hemodynamically stable 
throughout hospitalization.

TRANSITIONAL ISSUES:
====================
[]PCP: ___ consider transition to apixaban or rivaroxaban for 
anticoagulation.
[]Heme/Onc: Follow up pathology/cytology from bronchoscopy

MEDICATIONS:
New meds: None
Stopped meds: None
Changed meds: None

Code status: Full (confirmed)
Contact: ___, husband. ___

ACUTE/ACTIVE ISSUES:
====================
#Pneumothorax:
S/p lung nodule biopsy. Patient sustained pneumothorax during 
biopsy of LLL nodule performed by IP. Subsequently had chest 
tube placed and admitted for further monitoring. Received 
tramadol in PACU for pain. Pain improved over time. Did not 
require oxycodone overnight. Weaned off O2. Held home pradaxa in 
setting of procedure and was restarted after chest tube removal.

CHRONIC/STABLE ISSUES:
======================
#Atrial fibrillation
Currently NSR. Continued home metoprolol and digoxin. Held home 
pradaxa while inpatient periprocedurally; per IP team OK to 
resume anticoagulation after discharge. 

#Hypothyroidism
Continued home levothyroxine

#HLD
Continued home atorvastatin

#OA
Continued home amitriptyline, gabapentin 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 600 mg PO QHS 
2. Metoprolol Succinate XL 150 mg PO DAILY 
3. Digoxin 0.125 mg PO DAILY 
4. Dabigatran Etexilate 150 mg PO BID 
5. estradiol 2 mg (7.5 mcg /24 hour) vaginal Every 3 Months 
6. Atorvastatin 10 mg PO QPM 
7. melatonin 5 mg oral QHS 
8. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY 
9. Levothyroxine Sodium 50 mcg PO QHS 
10. Amitriptyline 25 mg PO QHS 

 
Discharge Medications:
1.  Amitriptyline 25 mg PO QHS  
2.  Atorvastatin 10 mg PO QPM  
3.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY  
4.  Dabigatran Etexilate 150 mg PO BID  
5.  Digoxin 0.125 mg PO DAILY  
6.  Estradiol 2 mg (7.5 mcg /24 hour) vaginal EVERY 3 MONTHS  
7.  Gabapentin 600 mg PO QHS  
8.  Levothyroxine Sodium 50 mcg PO QHS  
9.  melatonin 5 mg oral QHS  
10.  Metoprolol Succinate XL 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
==================
Pneumothorax

Secondary diagnoses:
====================
Emphysema
AFib on AC (Pradaxa)
Osteoarthritis
Hyperlipidemia
Hypothyroidism
Lung nodules

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
-You were admitted for treatment of small amount of air in your 
chest after a procedure.
 
What was done for me while I was in the hospital?  
-You had a bronchoscopy and biopsy of lung nodules which was 
complicated by a small pneumothorax (or air in the chest).
-You had a chest tube placed to release the air which resolved 
the pneumothorax.
-The chest tube was removed without complication.

What should I do when I leave the hospital?  
-Take all of your medications as prescribed (listed below).
-Follow up with your doctors as listed below.
-___ medical attention if you have new or concerning symptoms 
listed below. 

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___